US06916840B2
2-[[3-(2-Amino-1,2-dioxoethyl)-2-ethyl-1-benzyl-1H-benz[g]indol-4-yl]oxy]acetic acid methyl ester hemihydrate
Preparation of 2-[(2-ethyl-1-benzyl-1H-benz[g]indol-4-yl)oxy]acetic acid methyl ester. A solution of 1-benzyl-2-ethyl-4-methoxybenz[g]indole (0.43 g, 1.4 mmol) in chloroform (8 mL) was cooled to 0° C. and treated with boron tribromide (0.36 mL, 3.8 mmol). The mixture was warmed to room temperature over 2 h, and poured into water. The mixture was extracted with fresh chloroform. The combined chloroform extracts were washed once with water, once with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo to provide a highly colored solid. This material was added to a suspension of cesium carbonate (0.77 g, 2.4 mmol) in N,N-dimethylformamide (8 mL) and treated with methyl bromoacetate (0.23 mL, 2.4 mmol) at room temperature for 2 h. The mixture was diluted with water, and extracted twice with ethyl acetate. The combined ethyl acetate fractions were washed three times with water and once with saturated sodium chloride solution. The resulting solution was dried (sodium sulfate), filtered, and concentrated in vacuo to provide a red solid. Chromatography (silica gel, 20% ethyl acetate/80% hexane) provided 376 mg (74%) of the title compound as a white solid: mp 165-167° C. 1H NMR (CDCl3) δ7.95 (d, J=8.4 Hz, 1H), 7.75 (d, J=8.1 Hz, 1H), 7.28 (m, 4H), 7.16 (t, J=7.0 Hz, 1H), 7.05 (d, 6.6 Hz, 2H), 6.74 (s, 1H), 6.69 (s, 1H), 5.77 (s, 2H), 4.91 (s, 2H), 3.85 (s, 3H), 2.76 (q, J=8.4 Hz, 2H), 1.38 (t, J=7.3 Hz, 3H); MS ES+ m/e 374 (p+1).

reactant | 2-[(2-ethyl-1-benzyl-1H-benz[g]indol-4-yl)oxy]acetic acid methyl ester | COC(COC1=C2C=C(N(C2=C2C(=C1)C=CC=C2)CC2=CC=CC=C2)CC)=O | C24H23NO3
reactant | 1-benzyl-2-ethyl-4-methoxybenz[g]indole | 1.4 mmol, 0.43 g | C(C1=CC=CC=C1)N1C(=CC2=C(C=C3C(=C12)C=CC=C3)OC)CC | C22H21NO
reactant | boron tribromide | 3.8 mmol, 0.36 mL | B(Br)(Br)Br | BBr3
reactant | cesium carbonate | 2.4 mmol, 0.77 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl bromoacetate | 2.4 mmol, 0.23 mL | BrCC(=O)OC | C3H5BrO2
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[[3-(2-Amino-1,2-dioxoethyl)-2-ethyl-1-benzyl-1H-benz[g]indol-4-yl]oxy]acetic acid methyl ester hemihydrate | 376 mg, 74% | O.COC(COC1=C2C(=C(N(C2=C2C(=C1)C=CC=C2)CC2=CC=CC=C2)CC)C(C(=O)N)=O)=O.NC(C(=O)C2=C(N(C1=C3C(=CC(=C21)OCC(=O)OC)C=CC=C3)CC3=CC=CC=C3)CC)=O | InChI=1S/2C26H24N2O5.H2O/c2*1-3-19-22(25(30)26(27)31)23-20(33-15-21(29)32-2)13-17-11-7-8-12-18(17)24(23)28(19)14-16-9-5-4-6-10-16;/h2*4-13H,3,14-15H2,1-2H3,(H2,27,31);1H2
